US04391805
(b) Preparation of 4-(piperidin-1-ylethyl)-phenol
A solution of 11 g=50 mmoles of 4-(piperidin-1-ylethyl)-anisole in a mixture of 50 ml of glacial acetic acid and 50 ml of 48% strength hydrobromic acid is boiled under reflux for 4 hours, the solution is evaporated in vacuo and the residue is recrystallized from ethanol. This gives 9 g of the hydrobromide, melting point: 265° C. The salt is dissolved in 30 ml of water and the free base is precipitated with concentrated aqueous ammonia solution and is filtered off. This gives 5.5 g (54% of theory), melting point: 168°-169° C.

reactant | 4-(piperidin-1-ylethyl)-anisole | 50 mmoles | N1(CCCCC1)CCC1=CC=C(C=C1)OC | C14H21NO
reactant | hydrobromic acid | Br | BrH
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 4-(piperidin-1-ylethyl)-phenol | N1(CCCCC1)CCC1=CC=C(C=C1)O | C13H19NO
